US06348474B1
Methyl 3-[2-chloro-4-(5-chlorothiophen-2-yl)benzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a suspension of methyl 3-[2-chloro-4-(thiophen-2-yl)benzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (50 mg, 0.126 mmol) in acetic acid (1 ml) was added N-chlorosuccinimide (19 mg, 0.138 mmol) at room temperature. Thirty minutes later, dichloromethane (0.5 ml) was added to the reaction mixture to give a clear transparent solution. Four hours later, N-chlorosuccinimide (19 mg, 0.138 mmol) was further added. The reaction mixture was left standing overnight and concentrated. The residue was purified by p-TLC (chloroform/methanol=40/1) to give the object compound (52 mg, 95.7%) as a colorless oil.

reactant | methyl 3-[2-chloro-4-(thiophen-2-yl)benzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 0.126 mmol, 50 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)C=1SC=CC1 | C20H16ClN3O2S
reactant | N-chlorosuccinimide | 0.138 mmol, 19 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
reactant | N-chlorosuccinimide | 0.138 mmol, 19 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | Methyl 3-[2-chloro-4-(5-chlorothiophen-2-yl)benzyl]-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 52 mg, 95.7% | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)C=1SC(=CC1)Cl | C20H15Cl2N3O2S
